US04011225
A solution of 5,6,7,8-tetrahydroquinoline (14 g.) in dry ether (100 ml.) was added dropwise over 1/2 hour to an ethereal solution of phenyl lithium (prepared from bromobenzene (42 g.) and lithium (3.7 g.) in dry ether (300 ml.) and the reaction mixture stirred at room temperature for a further one hour. The cooled reaction mixture was saturated with dry CO2 gas, evaporated in vacuo and the residue treated with methanol previously saturated with dry HCl (500 ml.) and the solution heated at reflux for 12 hours. The solvent was removed in vacuo and the residue dissolved in water (50 ml.), extracted with ether (3 × 150 ml.) and the extracts discarded. The aqueous solution was made basic and extracted with ether (3 × 100 ml.). The combined ethereal extracts were dried, evaporated in vacuo and the residual oil distilled giving methyl-5,6,7,8-tetrahydroquinoline-8-carboxylate as a colourless oil (13 g.) b.p. 92° C/0.05 mm. The hydrochloride was prepared by saturating an ethereal solution with dry HCl gas and recrystallising the resultant solid from methanol-ether to give the hydrochloride of the title compound as colourless needles mpt. 173° C. Found: C, 58.2; H, 6.3; N, 6.3%. C11H13NO2.HCl requires C, 58.0; H, 6.2; N, 6.2%.

reactant | 5,6,7,8-tetrahydroquinoline | 14 g | N1=CC=CC=2CCCCC12 | C9H11N
reactant | phenyl lithium | C1(=CC=CC=C1)[Li]
reactant | bromobenzene | 42 g | BrC1=CC=CC=C1 | C6H5Br
reactant | lithium | 3.7 g | [Li] | Li
reactant | CO2 | C(=O)=O | CO2
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 300 ml | CCOCC | C4H10O
product | methyl-5,6,7,8-tetrahydroquinoline-8-carboxylate | COC(=O)C1CCCC=2C=CC=NC12 | C11H13NO2
